US08378104B2
Step F: 7-bromo-6-iodo-benzo[d]isothiazole (Title Compound)
A mixture of 3-bromo-2-tert-butylsulfanyl-4-iodo-benzaldehyde oxime (1.0 g, 2.4 mmol) and p-toluenesulfonic acid (0.19 g, 1 mmol) in n-butanol (50 mL) were heated to reflux for 16 h. The reaction mixture was cooled and concentrated. Water (40 mL) was added to the residue, followed by saturated sodium bicarbonate solution. The mixture was extracted with dichloromethane (3×40 mL). The combined organic fractions were washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue by column chromatography (5% ethyl acetate:hexanes) afforded 0.23 g (28%) of the title compound as a solid. 1H NMR (300 MHz, CDCl3): δ 7.36 (d, J=7.8 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 8.99 (s, 1H).

reactant | 3-bromo-2-tert-butylsulfanyl-4-iodo-benzaldehyde oxime | 2.4 mmol, 1.0 g | BrC=1C(=C(C=NO)C=CC1I)SC(C)(C)C | C11H13BrINOS
reactant | p-toluenesulfonic acid | 1 mmol, 0.19 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-butanol | 50 mL | C(CCC)O | C4H10O
product | 7-bromo-6-iodo-benzo[d]isothiazole | 0.23 g, 28% | BrC1=C(C=CC=2C=NSC21)I | C7H3BrINS
